US08357711B2
2-Chloro-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid
1,2,4-Thiadiazol-5-amine (770 mg, 7.61 mmol, 1.5 eq) was dissolved in dioxane (10 ml), a solution of sodium hydroxide (550 mg, 14 mmol, 2.7 eq) in water (3 ml) was added and the reaction mixture stirred at room temperature for 10 minutes. 4-(chlorosulfonyl)-3-chlorobenzoic acid (Preparation 41, 1.3 g, 5.1 mmol, 1 eq) was added portionwise and the reaction mixture stirred at room temperature for 2 hours. The mixture was dropped into 2M HCl (10 ml) and concentrated in vacuo up to apparition of a solid. The resultant precipitate was discarded and filtrate filtered again to yield the title compound as a white solid (243.3 mg, 0.763 mmol, 15%).

reactant | 1,2,4-Thiadiazol-5-amine | 7.61 mmol, 770 mg, 1.5 eq | S1N=CN=C1N | C2H3N3S
reactant | sodium hydroxide | 14 mmol, 550 mg, 2.7 eq | [OH-].[Na+]
reactant | 4-(chlorosulfonyl)-3-chlorobenzoic acid | 5.1 mmol, 1.3 g, 1 eq | ClS(=O)(=O)C1=C(C=C(C(=O)O)C=C1)Cl | C7H4Cl2O4S
reactant | HCl | 2M, 10 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | 2-Chloro-4-[(1,2,4-thiadiazol-5-ylamino)sulfonyl]benzoic acid | 0.763 mmol, 243.3 mg, 15% | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)NC1=NC=NS1 | C9H6ClN3O4S2
